US04063025
A mixture of 0.86 g. of 3,5-dichloro-4-carbamoylamino-α-bromomethylbenzyl alcohol and 10 ml. of tert-butylamine was heated to 90°-100° C. for 2 days in a sealed tube. After cooling the reaction mixture, the solvent was distilled off under reduced pressure and after adding to the residue formed 50 ml. of ethyl acetate, 50 ml. of water, and an excessive amount of sodium carbonate followed by stirring for 30 minutes, sodium chloride was added to the mixture until the mixture was saturated. Then, the mixture was separated into an ethyl acetate layer and an aqueous layer. The ethyl acetate layer formed was washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Then, after filtering, the solvent was distilled off from the filtrate under reduced pressure. By recrystallizing the residue from ethyl acetate, 0.24 g. of 3,5-dichloro-4-tert-butylcarbamoylamino-α-(tert-butylaminomethyl)benzyl alcohol having a melting point of 167°-169° C. was obtained.

reactant | 3,5-dichloro-4-carbamoylamino-α-bromomethylbenzyl alcohol | ClC=1C=C(C(CBr)O)C=C(C1NC(N)=O)Cl | C9H9BrCl2N2O2
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,5-dichloro-4-tert-butylcarbamoylamino-α-(tert-butylaminomethyl)benzyl alcohol | ClC=1C=C(C(CNC(C)(C)C)O)C=C(C1NC(NC(C)(C)C)=O)Cl | C17H27Cl2N3O2
